US06294573B1
4-(((4-bromophenyl)sulfonyl)methyl)tetrahydro-2H-pyran-4-ol
A −10° C. solution of diisopropylamine (0.35 mL) in THF (5 mL) was treated with n-BuLi (1 mL, 2.5M solution in hexanes), stiired for 15 min then added via canula to a −78 C solution of 4-bromophenyl methyl sulfone (534 mg) in THF (5 mL). Stirred for 1 h, then treated with tetrahydropyran-4H-pyran-4-one (0.21 mL) and stirred for an additional 1 h. The reaction was quenched with aq. NH4Cl, diluted with water and extracted wth EtOAc (3×). The combined organics were washed with brine, dried (Na2SO4), filtered, concentrated and purified via silica gel chromatography eluting with 10% ethyl acetate/dichloromethane to give 640 mg of the title compound.

reactant | diisopropylamine | 0.35 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.5M, 1 mL | [Li]CCCC
reactant | 4-bromophenyl methyl sulfone | 534 mg | CS(=O)(=O)C1=CC=C(C=C1)Br | C7H7BrO2S
reactant | tetrahydropyran 4H-pyran-4-one | 0.21 mL | O1CCCCC1.O1C=CC(C=C1)=O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(((4-bromophenyl)sulfonyl)methyl)tetrahydro-2H-pyran-4-ol | 640 mg | BrC1=CC=C(C=C1)S(=O)(=O)CC1(CCOCC1)O | C12H15BrO4S
